US04902698
(c) 5-(5-Aminopyrid-2-yl)pentanoic acid
A solution of 5-(5-nitropyrid-2-yl)pentanoic acid (6.0 g) in ethanol (140 ml) containing 10% palladium on carbon (0.6 g) was shaken under an atmosphere of hydrogen at 3.4 atmospheres pressure for 1 hour. The catalyst was removed by filtration, the filtrate was evaporated to dryness and the residue was recrystallised from acetonitrile to give the title compound as a cream coloured solid (4.04 g). m.p. 80°-82° C.

reactant | 5-(5-nitropyrid-2-yl)pentanoic acid | 6.0 g | [N+](=O)([O-])C=1C=CC(=NC1)CCCCC(=O)O | C10H12N2O4
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | 5-(5-Aminopyrid-2-yl)pentanoic acid | NC=1C=CC(=NC1)CCCCC(=O)O | C10H14N2O2
